US06627771B1
Preparation of 3-bromomethyl-3-cyclopentyl-propionic acid ethyl ester—A solution of 4-cyclopentyl-dihydro-furan-2-one (4.4 g, 28.5 mmol) in 100 mL of EtOH is saturated with HBr at 0° C. The mixture is warmed to room temperature overnight. It is diluted with 200 mL of H2O and extracted with Et2O (3,100 mL). The combined extracts are washed with brine (2.50 mL) and dried over MgSO4. Evaporation of Et2O gives 6.4 g (85% yield) of 3-bromomethyl-3-cyclopentyl-propionic acid ethyl ester as a clear oil. NMR (1H, 400 MHz, CDCl3) δ1.1 (2H, m); 1.2 (3H, t); 1.5 (4H, m); 1.8 (3H, m); 1.9 (1H, m); 2.4 (2H, dd); 3.5 (2H, dd); 4.1 (2H,q).

reactant | 4-cyclopentyl-dihydro-furan-2-one | 28.5 mmol, 4.4 g | C1(CCCC1)C1CC(OC1)=O | C9H14O2
reactant | HBr | Br | BrH
reactant | EtOH | 100 mL | CCO | C2H6O
solvent | H2O | 200 mL | O | H2O
product | 3-bromomethyl-3-cyclopentyl-propionic acid ethyl ester | 6.4 g, 85% yield | C(C)OC(CC(C1CCCC1)CBr)=O | C11H19BrO2
